US04387238
To a suspension of monomethyl potassium epoxysuccinate (1.0 g) in ethyl ether (30 ml), oxalyl chloride (0.75 g) in ethyl ether was added dropwise with stirring under ice-cooling and the mixture was stirred for an hour at room temperature. To the reaction mixture, aniline (1.02 g) in ethyl ether was added dropwise with stirring under ice-cooling, and the mixture was stirred for an additional hour at room temperature. The precipitate produced was filtered off and the filtrate was washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate and concentrated to dryness. The crude product was purified by chromatography using silica gel as an absorbent and benzene as an eluent to give 0.84 g of methyl N-phenyl-2,3-epoxysuccinamate (Compound No. 50) as colorless oil.

reactant | monomethyl potassium epoxysuccinate | 1.0 g | O1C(C(=O)O)C1C(=O)O.C[K]
reactant | oxalyl chloride | 0.75 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aniline | 1.02 g | NC1=CC=CC=C1 | C6H7N
solvent | ethyl ether | 30 ml | C(C)OCC | C4H10O
product | methyl N-phenyl-2,3-epoxysuccinamate | 0.84 g | C1(=CC=CC=C1)NC(C1C(C(=O)OC)O1)=O | C11H11NO4
